US09101133B2
2-(2,6-Diethyl-4-methylphenyl)-5-(1,3-dioxan-2-yl)tetrahydropentalene-1,3(2H,3aH)-dione
0.100 g (0.22 mmol) of 2-(2,6-diethyl-4-methylphenyl)-5-(1,3-dioxan-2-yl)-3-oxo-3,3a,4,5,6,6a-hexahydropentalen-1-yl 2,2-dimethylpropanoate in 10 ml of methanol and 4 ml of 1N aqueous sodium hydroxide solution is stirred at room temperature for 2 h. The mixture is then concentrated, the residue is taken up in water, the mixture is acidified to pH 4 using 2N HCl and extracted with ethyl acetate, the extract is dried (magnesium sulphate) and the solvent is distilled off. Chromatographic purification of the residue on silica gel (mobile phase ethyl acetate/hexane 1:6) gives 70 mg (86%) of the desired compound in the form of colourless needles of m.p. 100-101° C.

reactant | 2-(2,6-diethyl-4-methylphenyl)-5-(1,3-dioxan-2-yl)-3-oxo-3,3a,4,5,6,6a-hexahydropentalen-1-yl 2,2-dimethylpropanoate | 0.22 mmol, 0.100 g | CC(C(=O)OC1=C(C(C2CC(CC12)C1OCCCO1)=O)C1=C(C=C(C=C1CC)C)CC)(C)C | C28H38O5
solvent | methanol | 10 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 4 ml | [OH-].[Na+]
product | 2-(2,6-Diethyl-4-methylphenyl)-5-(1,3-dioxan-2-yl)tetrahydropentalene-1,3(2H,3aH)-dione | 70 mg, 86% | C(C)C1=C(C(=CC(=C1)C)CC)C1C(C2CC(CC2C1=O)C1OCCCO1)=O | C23H30O4
